US06521666B1
Trifluoroacetic anhydride (0.55 mL) was added to a solution of 2-chloro-4-(1-pyrrolyl)benzoic acid methyl ester (0.3 g) in CH2Cl2 (5 mL) and the mixture was stirred at room temperature for 4 h. The mixture was diluted with CH2Cl2 and the mixture was stirred with satd. NaHCO3 for 30 min. The organic layer was separated and washed with brine, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (silica gel; eluent: hexane/EtOAc 5/1) to yield 0.4 g of 2-chloro-4-(2-trifluoroacetyl-1-pyrrolyl)benzoic acid methyl ester. ESMS: m/z 330 (M−1).

reactant | Trifluoroacetic anhydride | 0.55 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-chloro-4-(1-pyrrolyl)benzoic acid methyl ester | 0.3 g | COC(C1=C(C=C(C=C1)N1C=CC=C1)Cl)=O | C12H10ClNO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-(2-trifluoroacetyl-1-pyrrolyl)benzoic acid methyl ester | 0.4 g | COC(C1=C(C=C(C=C1)N1C(=CC=C1)C(C(F)(F)F)=O)Cl)=O | C14H9ClF3NO3
